US08735385B2
2-{2-Fluoro-4-[4-((S)-2-methyl-pyrrolidin-1-yl)-cyclohexyl]-phenyl}-2,8-diaza-spiro[4.5]decan-1-one hydrochloride
2-{2-Fluoro-4-[4-((S)-2-methyl-pyrrolidin-1-yl)-cyclohexyl]-phenyl}-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester was dissolved in 0.5 mL of methanol and cooled to ice-water bath. To this solution was added 0.5 mL of 4M HCl in dioxane (excess). The clear solution was stirred at r.t. overnight. The solvent was evaporated and the residue was further dried under reduced pressure to obtain the title compound as a gummy semi-solid.

reactant | 2-{2-Fluoro-4-[4-((S)-2-methyl-pyrrolidin-1-yl)-cyclohexyl]-phenyl}-1-oxo-2,8-diaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CCN(C2=O)C2=C(C=C(C=C2)C2CCC(CC2)N2[C@H](CCC2)C)F)CC1 | C30H44FN3O3
reactant | HCl | 4M, 0.5 mL | Cl | ClH
solvent | methanol | 0.5 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-{2-Fluoro-4-[4-((S)-2-methyl-pyrrolidin-1-yl)-cyclohexyl]-phenyl}-2,8-diaza-spiro[4.5]decan-1-one hydrochloride | Cl.FC1=C(C=CC(=C1)C1CCC(CC1)N1[C@H](CCC1)C)N1C(C2(CC1)CCNCC2)=O | InChI=1S/C25H36FN3O.ClH/c1-18-3-2-15-28(18)21-7-4-19(5-8-21)20-6-9-23(22(26)17-20)29-16-12-25(24(29)30)10-13-27-14-11-25;/h6,9,17-19,21,27H,2-5,7-8,10-16H2,1H3;1H/t18-,19?,21?;/m0./s1
